US04294960
A mixture of 4-nitrobenzyl 7[2-(2-formamidothiazol-4-yl)-2-n-butoxyiminoacetamido]-3-cephem-4-carboxylate (syn isomer, 34.5 g.), tetrahydrofuran (345 ml.), 10% palladium carbon (14 g.), methanol (140 ml.), acetic acid (2.5 ml.) and water (50 ml.) was subjected to catalytic reduction under ordinary pressure at room temperature for 3 hours. The resultant mixture was filtered, and washed with tetrahydrofuran. The filtrate was concentrated in vacuo, and the residue was dissolved in a mixture of ethyl acetate and an aqueous solution of sodium bicarbonate. The insoluble substance was removed by filtration. After the ethyl acetate layer was separated and extracted with an aqueous solution of sodium bicarbonate, the aqueous layer and the aqueous extract were combined. After the aqueous solution was washed with ethyl acetate and diethyl ether in turn, the solution was adjusted to pH 2.0 with 10% hydrochloric acid and stirred for 30 minutes. The precipitates were collected by filtration, washed with water and dried over magnesium sulfate to give 7-[2-(2-formamidothiazol-4-yl)-2-butoxyiminoacetamido]-3-cephem-4-carboxylic acid (syn isomer, 18.3 g.).

reactant | 4-nitrobenzyl 7[2-(2-formamidothiazol-4-yl)-2-n-butoxyiminoacetamido]-3-cephem-4-carboxylate | 34.5 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NOCCCC | C24H24N6O8S2
reactant | tetrahydrofuran | 345 ml | O1CCCC1 | C4H8O
reactant | methanol | 140 ml | CO | CH4O
reactant | acetic acid | 2.5 ml | C(C)(=O)O | C2H4O2
catalyst | palladium carbon | 14 g | [C].[Pd]
solvent | water | 50 ml | O | H2O
product | 7-[2-(2-formamidothiazol-4-yl)-2-butoxyiminoacetamido]-3-cephem-4-carboxylic acid | 18.3 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOCCCC | C17H19N5O6S2
